US05741937
It is also known to react 2-methylcyclohexanone with benzaldehyde in the presence of a solution of sodium hydroxide in a mixture of 37.5% by volume alcohol and 62% by volume water. In this way, it is possible over the course of 3 hours to obtain, in a yield of from 65 to 70%, 2-benzal-6-methylcyclohexanone (=2-methyl-6-benzylidenecyclohexanone (see J. Am. Chem. Soc. 65, 1317 (1943)). Disadvantages are the relatively low yield and the fact that the product is obtained as an oil which must be extracted and worked up by distillation.

reactant | 2-methylcyclohexanone | CC1C(CCCC1)=O | C7H12O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-methyl-6-benzylidenecyclohexanone | CC1C(C(CCC1)=CC1=CC=CC=C1)=O | C14H16O
